* ========================
* cmos inverter simulation
* ========================

* =========
* constants
* =========

.param voltage = 1.0V
.param pmos_width = 400nm
.param nmos_width = 200nm
.param pmos_length = 100nm
.param nmos_length = 100nm
.param pmos_threshold = -0.2V
.param nmos_threshold = 0.2V

* ==============
* power supplies
* ==============

vdd vdd 0 dc {voltage}

* =====================
* 2. input pulse source
* =====================

vin in 0 pulse(0 1.0 0.005n 0.1n 0.1n 5n 10n)

* ==============
* 3. transistors
* ==============

m1 out in vdd vdd pmos l={pmos_length} w={pmos_width}

m2 out in 0 0 nmos l={nmos_length} w={nmos_width}

* ===================
* 4. load capacitance
* ===================

cload out 0 1fF

* ================
* 5. mosfet models
* ================

.model nmos nmos level=1 vto={nmos_threshold} kp=120u lambda=0.06

.model pmos pmos level=1 vto={pmos_threshold} kp=40u lambda=0.06

* ======================
* 6. simulation commands
* ======================

.tran 0.005n 10n

* =======================
* 7. measurement commands
* =======================

* ==========================
* 8. save nodes for plotting
* ==========================

.control
run
set ascii_rawfile
set wr_singlescale
wrdata data.txt v(in) v(out) i(vdd)
.endc

* ==============
* end of netlist
* ==============

.end
